US05344841
1-(3-Diethylamino-2-Hydroxypropylamino)-4-(2, 3-Epoxypropylamino)-9, 10-Anthracenedione (Compound 1b-1 of Table 1)
Potassium hydroxide (0.3 g, 5.36 mmole) was added to a solution of 1-(3-diethylamino-2-hydroxypropylamino)-4-(3-chloro-2-hydroxypropylamino)-9, 10-anthracenedione hydrochloride salt (1 g, 1.78 mmole), the compound of Example 3, in methanol. The mixture was stirred at room temperature for 48 hours. Solvent was removed under reduced pressure and the residue was purified by flash column chromatography (silica gel, chloroform with a methanol gradient up to a ratio of 10:1) to give the title product 1-(3-diethylamino-2-hydroxypropylamino)-4-(2, 3-epoxypropylamino)-9, 10-anthracenedione which is compound 1b-1 of Table 1 (391 mg, 52%), mp 98° C.: NMR (CDCl3) δ1.06 (t, J=7.1 Hz, 6H, CH3), 2.62 (m, 7H, CH2), 2.87 (m, 1H, CH2), 3.27 (m, 1H, CH2), 3.49 (m, 2H, CH2), 3.59 (m, 1H CH2), 3.77 (m, 1H, CH), 3.96 (m, 1H, CH), 7.35 (s, 2H, Ar (2, 3)), 7.71 (m, 2H, Ar (6, 7)), 8.35 (m, 2H, Ar (5, 8)), 10.80 (b, 1H, NH), 10.92 (b, 1H, NH); Anal. Calcd for C24H29N3O4 : C, 68.1; H, 6.90; N, 9.92. Found: C, 67.86; H, 6.96; N, 9.85.

reactant | Potassium hydroxide | 5.36 mmole, 0.3 g | [OH-].[K+]
reactant | 1-(3-diethylamino-2-hydroxypropylamino)-4-(3-chloro-2-hydroxypropylamino)-9, 10-anthracenedione hydrochloride salt | 1.78 mmole, 1 g | Cl.C(C)N(CC(CNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCC(CCl)O)O)CC
solvent | methanol | CO | CH4O
product | 1-(3-diethylamino-2-hydroxypropylamino)-4-(2, 3-epoxypropylamino)-9, 10-anthracenedione | C(C)N(CC(CNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCC1CO1)O)CC | C24H29N3O4
